US06506747B1
Synthesis of [4-(5-Ethyl-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-(2-methylbenzyl)-amine
To a stirred solution of 1-(4-aminophenyl)-3-(3-pyridyl)-5-ethylpyrazole (300 mg, 1.14 mmol) and o-tolualdehyde (260 mg, 2.25 mmol) in 5% HOAc/MeOH (6 mL) at room temperature under argon, sodium cyanoborohydride (200 mg, 3.18 mmol) was added. The reaction mixture was stirred at room temperature for 4 h and then concentrated, diluted with water, extracted into ethyl acetate, washed with brine. The residue obtained on concentration was chromatographed on silica gel (eluant, gradient of 25-50% EtOAc in hexane) to provide the title compound as an oil that solidified on trituration with ether/petroleum ether (97 mg, 23%), m.p. 117-9° C. NMR (CDCl3, 400 MHz): 9.1 (s, 1H); 8.5 (br, 1H); 8.1 (br, 1H); 7.4-7.2 (overlapping m, 7H), 6.7 (d,2H), 6.5 (s, 1H), 4.4 (s, 2H), 4.1 (br, 1H), 2.7 (q, 2H), 2.4 (s, 3H), 1.3 (t, 3H).

reactant | 1-(4-aminophenyl)-3-(3-pyridyl)-5-ethylpyrazole | 1.14 mmol, 300 mg | NC1=CC=C(C=C1)N1N=C(C=C1CC)C=1C=NC=CC1 | C16H16N4
reactant | o-tolualdehyde | 2.25 mmol, 260 mg | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | sodium cyanoborohydride | 3.18 mmol, 200 mg | C(#N)[BH3-].[Na+]
solvent | HOAc MeOH | 6 mL | CC(=O)O.CO
product | [4-(5-Ethyl-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-(2-methylbenzyl)-amine | C(C)C1=CC(=NN1C1=CC=C(C=C1)NCC1=C(C=CC=C1)C)C=1C=NC=CC1 | C24H24N4
